US05133965
Sustained-Release of SDMC Entrapped Tobramycin from Wet Foam Wound Material Over Time
Foam wound materials containing tobramycin sulfate were prepared as shown in Example 1. Once the materials were placed onto grid supports they were maintained at room temperature and covered with a foil wrap. Every 12 hours for nine days, 5 ml of water was applied onto the foam bandage materials and eluent was collected. Two ml samples containing SDMC-entrapped tobramycin were assayed for tobramycin antibiotic activity using standard antimicrobial assays. The results are shown in Table IX.

reactant | tobramycin sulfate | C1[C@@H]([C@H]([C@@H]([C@H]([C@@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)N)O)O)O[C@@H]3[C@@H](C[C@@H]([C@H](O3)CN)O)N)N.OS(=O)(=O)O
solvent | water | 5 ml | O | H2O
product | Tobramycin | C1[C@@H]([C@H]([C@@H]([C@H]([C@@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)N)O)O)O[C@@H]3[C@@H](C[C@@H]([C@H](O3)CN)O)N)N | C18H37N5O9
